US04767743
E4. 3-(S)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanol
To 8.5 g. (0.224 m) of lithium aluminum hydride in 250 ml. of diethyl ether under nitrogen was added 53.5 g. (0.206 m) of methyl 3-(R)-methyl-5-(t-butyldimethylsilyloxy)pentanoate in 125 ml. of ether. The reaction was stirred for one hour at 0° C. and was then treated dropwise with 8.4 g. of water, 8.4 ml. of a 15% sodium hydroxide solution and 25.2 ml. of water. The solids were filtered and the organic phase separated and washed with water, 2.5% hydrochloric acid and a brine solution. The organic phase was dried over magnesium sulfate and concentrated in vacuo to give 46 g. of product.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | methyl 3-(R)-methyl-5-(t-butyldimethylsilyloxy)pentanoate | C[C@@H](CC(=O)OC)CCO[Si](C)(C)C(C)(C)C | C13H28O3Si
reactant | ether | CCOCC | C4H10O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(S)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanol | C[C@@H](CCO)CCO[Si](C)(C)C(C)(C)C | C12H28O2Si
